US04339267
Methyl 2-[[(6,7-dihydro-4-methoxy-5H-cyclopentapyrimidin-2-yl)aminothioxomethyl]aminosulfonyl]benzoate
A mixture of 4.3 g of methyl 2-(aminosulfonyl)-benzoate, 4.2 g of 6,7-dihydro-2-isothiocyanato-4-methoxy-5H-cyclopentapyrimidine and 2.2 g of anhydrous potassium carbonate in 70 ml of acetone was warmed to 40° with stirring. After 2 hours, a thick precipitate formed and stirring was continued for three more hours at ambient temperature. The precipitate was filtered, suspended in 150 ml of water, stirred and the pH adjusted to 2 by the addition of hydrochloric acid. The white solid was filtered, washed with cold water and dried to yield 4.2 g of product.

reactant | methyl 2-(aminosulfonyl)-benzoate | 4.3 g | NS(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C8H9NO4S
reactant | 6,7-dihydro-2-isothiocyanato-4-methoxy-5H-cyclopentapyrimidine | 4.2 g | N(=C=S)C1=NC2=C(C(=N1)OC)CCC2 | C9H9N3OS
reactant | potassium carbonate | 2.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 70 ml | CC(=O)C | C3H6O
product | Methyl 2-[[(6,7-dihydro-4-methoxy-5H-cyclopentapyrimidin-2-yl)aminothioxomethyl]aminosulfonyl]benzoate | 4.2 g | COC1=NC(=NC2=C1CCC2)NC(=S)NS(=O)(=O)C2=C(C(=O)OC)C=CC=C2 | C17H18N4O5S2
